Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
CC: biliary obstruction, s/p ERCP
 
Major Surgical or Invasive Procedure:
ERCP with sphincterotomy ___

 
History of Present Illness:
HPI: This is a ___ year old female with past medical history of 
hyperlipidemia, obesity, hypothyroidism, with recent outpatient 
workup for abdominal pain and self-resolving pale stools, with 
MRCP with moderate CBD dilation, admitted today after ERCP.  
Patient reports she was in her normal state of health until 
___ when she began to have intermittent episodes of 
epigastric pain, usually following eating.  Around that time she 
also noticed pale stools.  Patient initially treated with trial 
of PPI, subsequently underwent additional workup including 
ultrasound and MRCP with dilated CBD.  She was referred for ERCP 
and underwent today, showing a filling defect that appeared like 
sludge in the middle third of the common bile duct with upstream 
dilation of the CBD and CHD to 12mm.  Patient underwent 
sphincterotomy and balloon sweep with extraction of sludge. 
Patient admitted to medicine for further monitoring

On arrival to floor, patient comfortable.  Reported some 
sensation of abdominal distention ("like I over-ate").  She also 
reported a "small drop of blood" when she wiped after going to 
the bathroom, similar to prior hemorrhoid bleeding she has had 
in the past. No additional blood.  No melena.  No nausea.  Full 
10 point review of systems positive as above.  Otherwise 
negative. 

 
Past Medical History:
- Obesity
- Hyperlipidemia
- Hypothryoidism 
- s/p leiomyomectomy
- s/p tonsillectomy

 
Social History:
___
Family History:
Mother - gallstones, CVA, takatsubo cardiomyopathy
Father - ___
 
Physical ___:
VS: 97.5 133/72 62 18 100%RA
Gen: sitting up in bed, comfortable appearing
Eyes - EOMI, anicteric
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normoactive bowel sounds
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate, very pleasant 

DISCHARGE EXAM
Vitals: 98 - 115/73-___-98RA
Gen: sitting up in bed, comfortable appearing, pleasant, NAD
Eyes - EOMI, anicteric
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normoactive bowel sounds
Ext - no edema
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate, very pleasant 
 
Pertinent Results:
Labs - K 4.3, Cr 0.7, ALT 18, AST 21, Tbili 0.3, WBC 5.3, Hgb 
11.6, Plt 236

Reports
ERCP - ___
- Normal major papilla. 
- Cannulation of the biliary duct was successful and deep with a 
sphincterotome using a free-hand technique. 
- A cholangiogram was performed: There was a filling defect that 
appeared like sludge in the middle third of the common bile 
duct. 
There was upstream dilation of the CBD and CHD to 12mm. 
No strictures or narrowing were noted.
- A sphincterotomy was performed in the 12 o'clock position 
using a sphincterotome over an existing guidewire.
- Balloon sweeps were performed of the common bile duct which 
yielded sludge but no stone. 
- Further sweeps were performed until no debris was noted. 
- Completion occlusion cholangiogram revealed no further filling 
defects.  

DISCHARGE labs
___ 05:30AM BLOOD WBC-5.2 RBC-3.91 Hgb-11.0* Hct-33.5* 
MCV-86 MCH-28.1 MCHC-32.8 RDW-13.4 RDWSD-41.8 Plt ___
___ 05:30AM BLOOD Glucose-81 UreaN-10 Creat-0.7 Na-141 
K-4.1 Cl-107 HCO3-26 AnGap-12
___ 05:30AM BLOOD ALT-13 AST-16 AlkPhos-37 TotBili-0.___ year old female with past medical history of obesity, 
hyperlipidemia and hypothyroidism, recent symptoms of
nausea and pale stools with imaging demonstrating a dilated CBD, 
now s/p ERCP with sphincterotomy and sludge extraction, observed 
overnight, did well with no abdominal pain, discharged home 
without services. 

# Biliary Obstruction - likely secondary to biliary sludge; 
should be referred to surgery if develops biliary colic, but 
surgery is not urgent (see below). She tolerated a diet well the 
day after procedure, with no abdominal pain. She was discharged 
on a short course of prophylactic ciprofloxacin to end ___.

# BRBPR - reported small amount of blood on toilet paper after 
going immediately post-procedure while in the holding area; 
reports this is similar to her existing hemorrhoids. She had no 
additional episodes of this overnight. HCT from 35 to 33 w/o 
hemodynamic change.

# Hypothyroidism: continued home levothryoxine

Transitional issues:
-ERCP team deferred recommendation for cholecystectomy at this 
time given that she has had no biliary colic and has no evidence 
of frank stones or GB inflammation on imaging. Should she 
develop colic she can be referred for surgical evaluation - they 
recommended Dr. ___ at ___.
- Contact - ___ ___
- Code status -  Full confirmed on admission 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 125 mcg PO DAILY 

 
Discharge Medications:
1. Ciprofloxacin HCl 500 mg PO Q12H Duration: 4 Days 
ends ___ 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice daily 
Disp #*8 Tablet Refills:*0
2. Levothyroxine Sodium 125 mcg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Biliary obstruction
Abdominal pain
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking part in your care at ___. You 
underwent an ERCP with sphincterotomy (only sludge was seen), 
and were observed in the hospital prior to discharge. You did 
great and tolerated a regular diet before discharge. You should 
continue ciprofloxacin 500mg twice daily until the morning of 
___. Per the ERCP team, you do not need urgent surgery 
referral for cholecystectomy (gallbladder removal), but if you 
start noticing discomfort in your right upper quadrant, you 
should have your primary care doctor refer you to a surgeon. A 
surgeon that the ___ team suggested here was Dr. ___ 
(___).
We wish you the best of luck!
 
Followup Instructions:
___